US06093744
3,5-Diisopropyl-4-{[(2,4,6-triisopropyl-phenyl)-acetyl]sulfamoyloxy}-benzoic acid methyl ester
Oxalyl chloride (1.12 mL, 12.8 mmol) was added dropwise to a solution of 2,4,6-triisopropylphenyl acetic acid (3.05 g, 11.6 mmol) in 150 mL toluene with 4 drops of N,N-dimethylformamide as a catalyst. The resulting solution was stirred overnight and then concentrated in vacuo. The residue was re-dissolved in 150 mL dichloromethane. 3,5-Bis(1-methylethyl)-4-(sulfamoyloxy)benzoic acid methyl ester (3.48 g, 11.6 mmol) and triethylamine (4.0 mL) were added and the resulting mixture was stirred for 2 hours. Washed with 1 M HCl, dried the organic layer over magnesium sulfate, filtered, and concentrated to give an off-white foam. Recrystallized (hexanes) to give 5.21 g of the title compound as a white solid; mp 144-146° C.

reactant | Oxalyl chloride | 12.8 mmol, 1.12 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4,6-triisopropylphenyl acetic acid | 11.6 mmol, 3.05 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CC(=O)O | C17H26O2
reactant | 3,5-Bis(1-methylethyl)-4-(sulfamoyloxy)benzoic acid methyl ester | 11.6 mmol, 3.48 g | COC(C1=CC(=C(C(=C1)C(C)C)OS(N)(=O)=O)C(C)C)=O | C14H21NO5S
reactant | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 3,5-Diisopropyl-4-{[(2,4,6-triisopropyl-phenyl)-acetyl]sulfamoyloxy}-benzoic acid methyl ester | 5.21 g | COC(C1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C)=O | C31H45NO6S
